* Z:\mnt\design.r\spice\examples\3526L.asc
L1 IN N001 4.7µ Rpar=5K
V1 IN 0 2
R1 OUT N002 1.78Meg
R2 N002 0 1Meg
C1 OUT 0 4.7µ Rser=1m
Rload OUT 0 16.5
XU1 N001 0 IN IN N002 OUT LTC3526L
.tran .5m startup
.lib LTC3526L.sub
.backanno
.end
